US09193719B2
Pivalonitrile (1.3 mL, 12.0 mmol) was dissolved in anhydrous ethanol (28 mL) under an atmosphere of Ar. The solution was cooled to 0° C., saturated with HCl gas, stirred for 6 h, allowed to warm to RT, and stirred for 54 h. The solvent was removed in vacuo to afford ethyl pivalimidate hydrochloride (2.0 g, 100%) as an off white solid. 1H NMR (400 MHz, DMSO-d6): δ 11.19 (br s, 1H), 4.42 (q, J=6.9 Hz, 2H), 1.33 (t, J=6.8 Hz, 3H), 1.24 (s, 9H).

reactant | Pivalonitrile | 12.0 mmol, 1.3 mL | C(C(C)(C)C)#N | C5H9N
reactant | HCl | Cl | ClH
reactant | ethanol | 28 mL | C(C)O | C2H6O
product | ethyl pivalimidate hydrochloride | 2.0 g, 100% | Cl.C(C(C)(C)C)(OCC)=N | InChI=1S/C7H15NO.ClH/c1-5-9-6(8)7(2,3)4;/h8H,5H2,1-4H3;1H
